US07709519B2
A 300 mg portion of 2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-1-[3-(1,2-dihydroxyethyl)phenyl]-3-(3-fluorophenyl)propane-1,3-dione and 200 mg of 1,1′-carbonyldiimidazole were dissolved in 7 ml of Tol and stirred at 80° C. for 12 hours. After concentration of the reaction liquid, the thus formed residue was purified by a silica gel column chromatography to obtain 30 mg (9%) of 2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-1-(3-fluorophenyl)-3-[3-(2-oxo-1,3-dioxolan-4-yl)phenyl]propane-1,3-dione as a yellow solid from a chloroform-methanol (10:1) eluate. ES+: 445

reactant | 2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-1-[3-(1,2-dihydroxyethyl)phenyl]-3-(3-fluorophenyl)propane-1,3-dione | N1C(NC2=C1C=CC=C2)=C(C(=O)C2=CC(=CC=C2)C(CO)O)C(=O)C2=CC(=CC=C2)F | C24H19FN2O4
reactant | 1,1′-carbonyldiimidazole | 200 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-1-(3-fluorophenyl)-3-[3-(2-oxo-1,3-dioxolan-4-yl)phenyl]propane-1,3-dione | 30 mg, 9% | N1C(NC2=C1C=CC=C2)=C(C(=O)C2=CC(=CC=C2)F)C(=O)C2=CC(=CC=C2)C2OC(OC2)=O | C25H17FN2O5
